US05576324
5-Methyl-2-[1-(3-thiazolinyl)methyl]-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one.
A mixture of 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (4.802 g) and thiazoline (5.815 g) was stirred at 150° C. in the stream of argon gas for 4 hours. The solvent was distilled off under reduced pressure. Chloroform was added to the residue, and extracted with 1N-HCl. After the extract was washed with chloroform, 1N-NaOH was added to bring the pH basic. Extraction was performed with chloroform, followed by washing with water. After dried, the residue was crystallized from methanol to obtain 1.885 g of a free base of the title compound as pale yellow powder (mp.: 196°-199° C.).

reactant | 2-bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 4.802 g | BrCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H12BrNO2
reactant | thiazoline | 5.815 g | S1C=NCC1 | C3H5NS
product | 5-Methyl-2-[1-(3-thiazolinyl)methyl]-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 1.885 g, Yield: 38.2% | CC=1C=C2C(=C3C=CC(NC13)=O)OC(C2)CC2SCC=N2 | C16H16N2O2S
